US04581452
A mixture of α-heptafluoropropylacrylic acid (240 mg; 1.0 mmole), urea (64 mg; 1.1 mmoles) and acetic anhydride (0.6 ml) was heated at 100° C. with stirring for 40 minutes. Then, ethanol (3 ml) was added to the reaction mixture to give 180 mg (yield: 64%) of 5-heptafluoropropyldihydrouracil as colorless crystals. m.p.: 223°-224 (decomp.).

reactant | α-heptafluoropropylacrylic acid | 1.0 mmole, 240 mg | FC(C(C(C(=O)O)=C)(F)F)(C(F)(F)F)F | C6H3F7O2
reactant | urea | 1.1 mmoles, 64 mg | NC(=O)N | CH4N2O
reactant | acetic anhydride | 0.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 5-heptafluoropropyldihydrouracil | 180 mg, yield: 64% | FC(C(C1C(NC(NC1)=O)=O)(F)F)(C(F)(F)F)F | C7H5F7N2O2
